US04453004
To a 100 ml three-necked flask equipped for reflux and fitted with a mechanical stirrer was added 2.0 g (0.014 mol) of p-hydroxybenzoic acid, 1.0 g (0.007 mol) of potassium carbonate, and 5.0 ml (0.059 mol) of dimethyl sulfite. The mixture was heated at 100° C. for four hours and then quenched with 15 ml of water. The organics were taken up with methylene chloride and washed sequentially with 12% caustic solution and water. The extracts were concentrated in vacuo to give 1.28 g (55) of methyl p-methoxybenzoate.

reactant | p-hydroxybenzoic acid | 0.014 mol, 2.0 g | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | potassium carbonate | 0.007 mol, 1.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfite | 0.059 mol, 5.0 ml | S(=O)(OC)OC | C2H6O3S
product | methyl p-methoxybenzoate | 1.28 g | COC1=CC=C(C(=O)OC)C=C1 | C9H10O3
